* C:\Users\evang\AES\BigMuff\sim\Big Muff Pi.asc
* Generated by LTspice 26.0.0 for Windows.
R1 N014 Vin 33k
R3 N007 0 47k
Q1 N008 N007 N019 0 2N5089
R2 N008 N007 470k
C2 N008 N007 470pF
R4 N019 0 100
R5 Vdd N008 10k
C3 N010 N008 1µF
R6 N010 N015 50k
R7 N024 0 1k
C4 N016 N015 100nF
R8 N005 N016 10k
R9 N005 0 100k
Q2 N002 N005 N020 0 2N5089
R10 N002 N005 470k
R11 N020 0 150
R12 Vdd N002 10k
D1 N001 N002 1N4148
D2 N002 N001 1N4148
C6 N017 N002 100nF
R13 N006 N017 10k
R14 N006 0 100k
Q3 N004 N006 N021 0 2N5089
R16 N021 0 150
C8 N009 N004 4nF
R18 N022 N004 33k
R19 Vdd N009 22k
C9 N022 0 10nF
R20 N009 N011 50k
C10 N018 N011 100nF
Q4 N012 N018 N023 0 2N5089
R21 Vdd N018 430k
R22 N018 0 100k
R23 Vdd N012 15k
R24 N023 0 3.3k
C11 N013 N012 100nF
R25 N013 Vout 50k
C12 N007 N014 1µF
C1 N001 N005 1µF
R26 N015 N024 50k
C7 N002 N005 470pF
R15 Vdd N004 10k
D3 N003 N004 1N4148
D4 N004 N003 1N4148
C5 N003 N006 1µF
C13 N004 N006 470pF
R17 N004 N006 470k
R27 N011 N022 50k
R28 Vout 0 50k
V1 VDD 0 9V
V2 Vin 0 SINE(0 150mV 1k)
.model D D
.lib C:\Users\evang\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\evang\AppData\Local\LTspice\lib\cmp\standard.bjt
* .op
.tran 10ms
.backanno
.end
